US09126998B2
N-[2-(tert-Butylamino)ethyl]-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide
70 mg (0.21 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid Example 21A, 71 mg (0.22 mmol) of TBTU and 128 mg (1.26 mmol) of 4-methylmorpholine were initially charged in DMF (0.74 ml), 44 mg (0.23 mmol) of N-tert-butylethane-1,2-diamine dihydrochloride were added and the reaction mixture was stirred at RT overnight. Another 22 mg (0.12 mmol) of N-tert-butylethane-1,2-diamine dihydrochloride and 21 mg (0.21 mmol) of 4-methylmorpholine were added, and the mixture was stirred at RT for 1.5 h. The mixture was diluted with a few drops of water/TFA and purified by preparative RP-HPLC (acetonitrile/water with addition of 0.1% TFA), and the product fractions were concentrated. Saturated aqueous sodium bicarbonate solution was added to the residue, and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 78 mg (86% of theory, purity 96%) of the target compound.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.21 mmol, 70 mg | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C17H14F2N2O3
reactant | TBTU | 0.22 mmol, 71 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 1.26 mmol, 128 mg | CN1CCOCC1 | C5H11NO
reactant | N-tert-butylethane-1,2-diamine dihydrochloride | 0.23 mmol, 44 mg | Cl.Cl.C(C)(C)(C)NCCN
reactant | N-tert-butylethane-1,2-diamine dihydrochloride | 0.12 mmol, 22 mg | Cl.Cl.C(C)(C)(C)NCCN
reactant | 4-methylmorpholine | 0.21 mmol, 21 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 0.74 ml | CN(C)C=O | C3H7NO
catalyst | water TFA | a few drops | O.C(=O)(C(F)(F)F)O
product | N-[2-(tert-Butylamino)ethyl]-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxamide | C(C)(C)(C)NCCNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C | C23H28F2N4O2
